US04590189
A solution of 1.2 g of 2-cyclohexyl-3-hydroxyisoindolin-1-one and 2.2 g of piperidinocarbonylmethylenetriphenylphosphorane in toluene (30 ml) was refluxed for 3 hours. After cooling, the toluene was distilled off and ether was added whereupon triphenylphosphine oxide separated out. After filtration, the filtrate was allowed to stand to giving crude crystals. Recrystallization from ether gave 1.3 g of 2-cyclohexyl-3-piperidinocarbonylmethylisoindolin-1-one.

reactant | 2-cyclohexyl-3-hydroxyisoindolin-1-one | 1.2 g | C1(CCCCC1)N1C(C2=CC=CC=C2C1O)=O | C14H17NO2
reactant | piperidinocarbonylmethylenetriphenylphosphorane | 2.2 g | N1(CCCCC1)C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26NOP
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclohexyl-3-piperidinocarbonylmethylisoindolin-1-one | 1.3 g | C1(CCCCC1)N1C(C2=CC=CC=C2C1CC(=O)N1CCCCC1)=O | C21H28N2O2
